US04266077
5,5',5",5'"-[1,3,5,7-Naphthalenetetrayltetrakis(sulfonylimino)]-tetra-1,2,3-benzenetricarboxylic acid, dodecaphenyl ester
To a solution of 36.27 g. of 5-amino-1,2,3-benzenetricarboxylic acid, triphenyl ester in 150 ml. of dry pyridine is added 12.0 g. of 1,3,5,7-naphthalenetetrasulfonyl chloride and the mixture is stirred at room temperature for one hour and then at 55°-75° C. for 2 hours. The solution is poured into 840 ml. of 2 N hydrochloric acid and the resulting mixture is extracted with methylene chloride. The aqueous phase is filtered to remove the suspended solid which is washed with water and methylene chloride to provide 32.4 g. of a cream powder. The product is crystallized from acetone-methylene chloride and is then refluxed in acetonitrile:methanol (2:1) solution. The product is filtered and the filtrate cooled to 5° C. to provide additional product. The combined fractions are dried overnight in an Abderhalden apparatus at 110° C. to give 21.45 g. of beige powder, mp. >300° C.

reactant | 5-amino-1,2,3-benzenetricarboxylic acid, triphenyl ester | NC=1C=C(C(=C(C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1 | C27H19NO6
reactant | 1,3,5,7-naphthalenetetrasulfonyl chloride | C1(=CC(=CC=2C(=CC(=CC12)S(=O)(=O)Cl)S(=O)(=O)Cl)S(=O)(=O)Cl)S(=O)(=O)Cl | C10H4Cl4O8S4
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5,5',5",5'"-[1,3,5,7-Naphthalenetetrayltetrakis(sulfonylimino)]-tetra-1,2,3-benzenetricarboxylic acid, dodecaphenyl ester | C1(=CC(=CC2=C(C=C(C=C12)S(=O)(=O)NC=1C=C(C(=C(C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=C(C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=C(C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=C(C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1 | C118H76N4O32S4
